US07560546B2
Step A: Ethyl 5-(1-benzofuran-2-yl)-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate
1-tert-Butyl-2-ethyl 5-iodo-3-(morpholin-4-ylsulfonyl)-1H-indole-1,2-dicarboxylate (54 mg, 0.096 mmol, 1.0 equiv), 1-benzofuran-2-ylboronic acid (22 mg, 0.13 mmol, 1.4 equiv), tri-t-butylphosphine (3.9 mg, 0.02 mmol, 0.2 equiv) and palladium(II)acetate (2.1 mg, 0.01 mmol, 0.1 equiv) and cesium fluoride (73 mg, 0.48 mmol, 5.0 equiv) were dissolved in 5 mL of dry DME and heated to 90° C. for 3 hours. The mixture was cooled to ambient temperature, poured into aqueous saturated NaHCO3 and the aqueous layer was extracted 3 times with ethyl acetate. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to provide the titled compound. ESI+MS: 455.1 [M+H]+.

reactant | 1-tert-Butyl-2-ethyl 5-iodo-3-(morpholin-4-ylsulfonyl)-1H-indole-1,2-dicarboxylate | 0.096 mmol, 54 mg, 1.0 equiv | IC=1C=C2C(=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-])S(=O)(=O)N1CCOCC1
reactant | 1-benzofuran-2-ylboronic acid | 0.13 mmol, 22 mg, 1.4 equiv | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | tri-t-butylphosphine | 0.02 mmol, 3.9 mg, 0.2 equiv | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium fluoride | 0.48 mmol, 73 mg, 5.0 equiv | [F-].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | palladium(II)acetate | 0.01 mmol, 2.1 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 5-(1-benzofuran-2-yl)-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | O1C(=CC2=C1C=CC=C2)C=2C=C1C(=C(NC1=CC2)C(=O)OCC)S(=O)(=O)N2CCOCC2 | C23H22N2O6S
